US04409215
To a solution of benzhydryl 2-phthalimidooxyacetate (10 g) in methylene chloride (100 ml) was added a solution of hydrazine hydrate (6.08 g) in methanol (7 ml). The reaction mixture was stirred at ambient temperature for an hour. The precipitates were collected by filtration and washed with methylene chloride. The filtrate and the washings were combined, adjusted to pH 7.0 with conc. hydrochloric acid, and washed with a saturated aqueous sodium chloride, and then dried over magnesium sulfate. The solution was evaporated in vacuo to give benzhydryl 2-aminooxyacetate (6.0 g).

reactant | benzhydryl 2-phthalimidooxyacetate | 10 g | C1(C=2C(C(N1OCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=CC=CC2)=O | C23H17NO5
reactant | hydrazine hydrate | 6.08 g | O.NN
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 7 ml | CO | CH4O
product | benzhydryl 2-aminooxyacetate | 6.0 g | NOCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C15H15NO3
